US08633200B2
To a stirred solution of 6-bromo-7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine (0.179 g, 0.5 mmol), copper(I) bromide (0.036 g, 0.250 mmol) and 0.5M LiCl/THF (8 ml, 4.00 mmol) was added 2M i-BuMgCl/THF (2.000 ml, 4.00 mmol) over 5 min at rt. After 2 h, LCMS indicated presence of mostly the unreacted starting material. More iBuMgCl (1 ml) was added and continued stirring at rt for additional 4 h and methyl 2-chloro-2-oxoacetate (0.736 ml, 8.00 mmol) added at once to the reaction mixture, and stirred for additional 1 h. Then, the reaction was diluted with Et2O (50 mL), quenched with Na2CO3 (1 mL), washed with 10 mL each water and brine, dried (Na2SO4), filtered and concentrated to give orange paste which was purified by prep-HPLC to afford methyl 2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (0.0772 g, 0.170 mmol, 34.0% yield) as yellow oil which turned to yellow solid overtime and contaminated with about 15% of 2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidine. 1H NMR (500 MHz, CDCl3) δ: 7.98 (d, J=1.8 Hz, 1H), 7.87-7.83 (m, 1H), 7.41-7.31 (m, 2H), 6.87 (s, 1H), 3.97 (s, 3H), 3.13 (d, J=7.3 Hz, 2H), 2.51 (s, 3H), 2.44 (dt, J=13.7, 6.8 Hz, 1H), 0.97 (d, J=6.7 Hz, 6H). LCMS (M+H) calcd for C20H21ClN3O3: 386.13. found: 386.3.

reactant | 6-bromo-7-chloro-2-(3-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine | 0.5 mmol, 0.179 g | BrC=1C(=NC=2N(C1Cl)N=C(C2)C2=CC(=CC=C2)Cl)C | C13H8BrCl2N3
reactant | LiCl THF | 4.00 mmol, 0.5M, 8 ml | [Li+].[Cl-].C1CCOC1
reactant | i-BuMgCl THF | 4.00 mmol, 2M, 2.000 ml | C(C(C)C)[Mg]Cl.C1CCOC1
reactant | iBuMgCl | 1 ml | C(C(C)C)[Mg]Cl
reactant | methyl 2-chloro-2-oxoacetate | 8.00 mmol, 0.736 ml | ClC(C(=O)OC)=O | C3H3ClO3
solvent | Et2O | 50 mL | CCOCC | C4H10O
catalyst | copper(I) bromide | 0.250 mmol, 0.036 g | [Cu]Br
product | methyl 2-(2-(3-chlorophenyl)-7-isobutyl-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 0.170 mmol, 0.0772 g, 34.0% yield | ClC=1C=C(C=CC1)C1=NN2C(N=C(C(=C2CC(C)C)C(C(=O)OC)=O)C)=C1 | C20H20ClN3O3
